US07935699B2
A suspension of 2,3-dihydro-benzo[b]thiophene 1,1-dioxide (5.06 g, 30.08 mmol) in diethyl ether (150 mL) was added to a suspension of lithium aluminum hydride (10.27 g, 270.27 mmol) in diethyl ether (150 mL) at 25° C. After this time it was heated to reflux for 4 h (caution: if heating is too rapid it can exotherm rapidly and cause loss of material through the reflux condenser). It was then cooled to 0° C. in an ice bath and water (50 mL) was added very slowly. The resulting material was dissolved in 4 M aqueous hydrochloric acid (1 L). The aqueous layer was then extracted with diethyl ether (3×200 mL). The organic layers were combined and dried over magnesium sulfate, filtered and concentrated in vacuo. The material was purified by passing it through a plug of silica gel using pentane as the solvent to afford 2,3-dihydro-benzo[b]thiophene (1.88 g, 46%) as a clear colorless oil.

reactant | 2,3-dihydro-benzo[b]thiophene 1,1-dioxide | 30.08 mmol, 5.06 g | S1(C2=C(CC1)C=CC=C2)(=O)=O | C8H8O2S
reactant | lithium aluminum hydride | 270.27 mmol, 10.27 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 50 mL | O | H2O
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | hydrochloric acid | 4 M, 1 L | Cl | ClH
product | 2,3-dihydro-benzo[b]thiophene | 1.88 g, 46% | S1C2=C(CC1)C=CC=C2 | C8H8S
